US08048878B2
Synthesis of diethyl [(6S*,9aR*)-6-(4-carbomethoxyphenyl)-4-oxooctahydroquinolizin-3-yl]phosphonate
A mixture of (6R*,9aS*)-6-(4-carbomethoxyphenyl)-3-iodooctahydroquinolizin-4-one (180 mg) with triethyl phosphite (2 mL) was stirred at 120° C. for two hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure to obtain 185 mg of the title compound. The property value of the compound is as follows.

reactant | (6R*,9aS*)-6-(4-carbomethoxyphenyl)-3-iodooctahydroquinolizin-4-one | 180 mg | C(=O)(OC)C1=CC=C(C=C1)[C@@H]1N2C(C(CC[C@@H]2CCC1)I)=O | C17H20INO3
reactant | triethyl phosphite | 2 mL | P(OCC)(OCC)OCC | C6H15O3P
product | diethyl [(6S*,9aR*)-6-(4-carbomethoxyphenyl)-4-oxooctahydroquinolizin-3-yl]phosphonate | 185 mg | C(=O)(OC)C1=CC=C(C=C1)[C@H]1N2C(C(CC[C@H]2CCC1)P(OCC)(OCC)=O)=O | C21H30NO6P
